US07482113B2
Preparation of 3-oxo-2-cyanopropanoic acid t-butyl ester tetra-n-butylphosphonium salt (CDP-6)
CDP-6 was prepared from 3-oxo-2-cyanopropanoic acid t-butyl ester potassium salt and tetra-n-butylphosphonium chloride similar to the method described above for CDP-1. It was isolated as an orange color oil that crystallized upon standing.

reactant | 3-oxo-2-cyanopropanoic acid t-butyl ester potassium salt | [K].C(C)(C)(C)OC(C(C=O)C#N)=O
reactant | 3-oxo-2-cyanopropanoic acid n-octyl ester tetra-n-butylphosphonium salt | C(CCC)[P+](CCCC)(CCCC)CCCC.C(CCCCCCC)OC(C(C=O)C#N)=O
catalyst | tetra-n-butylphosphonium chloride | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 3-oxo-2-cyanopropanoic acid t-butyl ester tetra-n-butylphosphonium salt | C(CCC)[P+](CCCC)(CCCC)CCCC.C(C)(C)(C)OC(C(C=O)C#N)=O | InChI=1S/C16H36P.C8H11NO3/c1-5-9-13-17(14-10-6-2,15-11-7-3)16-12-8-4;1-8(2,3)12-7(11)6(4-9)5-10/h5-16H2,1-4H3;5-6H,1-3H3/q+1;
